US04267174
1-(N,N-Diethylsuccinamoyl)-2-cyanoaziridine.
3.46 g. N,N-Diethylsuccinic acid monoamide and 4.3 g. dicyclohexylcarbodiimide are dissolved in 35 ml. tetrahydrofuran and 1.36 g. 2-cyanoaziridine is added to the resultant suspension. After subsequently stirring for 2 hours in an ice bath and leaving to stand overnight at ambient temperature, the dicyclohexylurea is separated off and the filtrate evaporated. There are thus obtained 2.9 g. 1-(N,N-diethylsuccinamoyl)-2-cyanoaziridine in the form of an oil.

reactant | N,N-Diethylsuccinic acid monoamide | C(C)N(C(CCC(=O)O)=O)CC | C8H15NO3
reactant | dicyclohexylcarbodiimide | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | 2-cyanoaziridine | C(#N)C1NC1 | C3H4N2
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 1-(N,N-Diethylsuccinamoyl)-2-cyanoaziridine | C(C)N(C(CCC(=O)N1C(C1)C#N)=O)CC | C11H17N3O2
